### PR TITLE
Reverse predicative mathematics and delta-complete posets

### PR DESCRIPTION
**Pull request by IanRay11**
In particular, the more digestible \forall syntax wasn't type checking for me and I was having trouble with imports so in certain places I was importing in line which is likely not ideal.

### CODE REVIEW

**Comment by martinescardo** [comment]
Hi @IanRay11 . Thanks a lot for your contribution. I would prefer @tomdjong to review this pull request. But this may take a while as both him and I are away from our offices.

**Comment by IanRay11** [comment]
No problem! I knew Tom was on vacation.

**Comment by IanRay11** [comment]
In the meantime I'll add my files to the posets index and try to anticipate any other issues in this vein.

**Comment by ayberkt** [comment]
Hi @IanRay11, thanks for your contribution!

> the more digestible \forall syntax wasn't type checking for me

By this, do you mean the `\forall` syntax in `UF.Logic`? I can try to help you with that if that’s what you mean.

File: source/Posets/2ElementPoset.lagda [hunk 1]
```diff
@@ -0,0 +1,53 @@
...
+open import UF.PropTrunc
+open import UF.Logic
+
+open import UF.Subsingletons
+open import UF.Subsingletons-FunExt
+
+module Posets.2ElementPoset
+  (pt : propositional-truncations-exist)
+  (fe : Fun-Ext)
+  where
```
Comment (ayberkt) [inline source/Posets/2ElementPoset.lagda:21]: Our convention is to indent with single spaces instead of the usual Agda convention of double spaces. For things like these, you can check out `CONTRIBUTING.md`.

File: source/Posets/2ElementPoset.lagda [hunk 2]
```diff
@@ -0,0 +1,53 @@
...
+
+open import Locales.Frame pt fe
+
+2-Poset : Poset 𝓤₀ 𝓤₀
+2-Poset = (MLTT.Spartan.𝟚 , (2-ord , 2-ord-is-partial-order))
+  where
+  2-ord : MLTT.Spartan.𝟚 → MLTT.Spartan.𝟚 →  Ω 𝓤₀
+  2-ord ₀ x = (𝟙 , 𝟙-is-prop)
+  2-ord ₁ ₀ = (𝟘 , 𝟘-is-prop)
+  2-ord ₁ ₁ = (𝟙 , 𝟙-is-prop)
```
Comment (ayberkt) [inline source/Posets/2ElementPoset.lagda:31]: Our convention is to indent inside `where` blocks as well. I have seen some Agda programmers not indenting inside `where` blocks, but we do that.

I'm not sure if this is written down in `CONTRIBUTING.md`.

File: source/Posets/Delta-V-CompletePoset.lagda [hunk 3]
```diff
@@ -0,0 +1,224 @@
...
+
+  δ : (x y : ∣ A ∣ₚ) → (P : Ω 𝓥) → (𝟙{𝓥} + P holds) → ∣ A ∣ₚ 
+  δ x y P (inl _) = x
+  δ x y P (inr _) = y
+
+  open Joins (rel-syntax A)
+
+  is-δ_𝓥-complete : 𝓤 ⊔ 𝓦 ⊔ (𝓥 ⁺) ̇ 
+  is-δ_𝓥-complete = (x y : ∣ A ∣ₚ) → (x ≤[ A ] y) holds → (P : Ω 𝓥) →
+    Σ s ꞉ ∣ A ∣ₚ , (s is-lub-of ((𝟙 + P holds) , (δ x y P))) holds
```
Comment (ayberkt) [inline source/Posets/Delta-V-CompletePoset.lagda:39]: Again, indentation sizes.

**Comment by IanRay11** [comment]
I believe that is what I mean. In fact I even have a comment below that contains what I thought it should be

File: source/Posets/Delta-V-CompletePoset.lagda [hunk 4]
```diff
@@ -0,0 +1,224 @@
...
+
+\end{code}
+
+Ideally the more digestible syntax below would type check (ask someone with more experience) 
+
+    h : ∀ u ꞉ (upper-bound ((𝟙 + ((𝟘 , 𝟘-is-prop) holds)) , δ x y (𝟘 , 𝟘-is-prop))) ,
+      y ≤[ A ] (pr₁ u) holds
+    h : ∀[꞉]-syntax (upper-bound ((𝟙 + ((𝟘 , 𝟘-is-prop) holds)) , δ x y (𝟘 , 𝟘-is-prop)))
+      (λ u → y ≤[ A ] (pr₁ u)) holds
+
```
Comment (ayberkt) [inline source/Posets/Delta-V-CompletePoset.lagda:177]: The problem here is that you have used the Unicode character `0x2200` (`∀`) instead of `0x2C6F` (`Ɐ`). These render the same in some settings. Try using `Ɐ` and this should work.

**Review by ayberkt — CHANGES_REQUESTED** [review]

File: source/Posets/Delta-V-CompletePoset.lagda (hunk 4 above)
Comment (IanRay11) [reply source/Posets/Delta-V-CompletePoset.lagda]: That worked! Thanks! Should have realized it needed to be a different Unicode to avoid overload, my bad.

File: source/Posets/2ElementPoset.lagda (hunk 1 above)
Comment (IanRay11) [reply source/Posets/2ElementPoset.lagda]: Okay I think I fixed all of these and I'll check out the CONTRIBUTING.md going forward.

File: source/Posets/Delta-V-CompletePoset.lagda (hunk 4 above)
Comment (ayberkt) [reply source/Posets/Delta-V-CompletePoset.lagda]: Great!

File: source/Posets/Delta-V-CompletePoset.lagda [hunk 5]
```diff
@@ -0,0 +1,206 @@
...
+Future work: I would be nice to show that classically every poset is
+δ_𝓥 complete and to provide the critical examples of δ_𝓥 complete posets
+such as 𝓥-sup lattices, etc. We should also show that is-δ_𝓥-complete is
+a subsingleton.
+
+We now define the type of δ_𝓥 complete posets.
+
+\begin{code}
+
+δ_𝓥-complete-Poset : (𝓤 𝓦 𝓥 : Universe) → (𝓤 ⁺) ⊔ (𝓦 ⁺) ⊔ (𝓥 ⁺) ̇
```
Comment (tomdjong) [inline source/Posets/Delta-V-CompletePoset.lagda:51]: It's nicer to write a single +, like this: `(𝓤 ⊔ 𝓦 ⊔ 𝓥) ⁺`.

File: source/Posets/Delta-V-CompletePoset.lagda [hunk 6]
```diff
@@ -0,0 +1,206 @@
...
+
+is-δ_𝓥-complete-δ : (D : δ_𝓥-complete-Poset 𝓤 𝓦 𝓥) →
+  δ_𝓥-complete-poset.is-δ_𝓥-complete 𝓥 (Poset-δ D)
+is-δ_𝓥-complete-δ D = pr₂ D
+
+\end{code}
+
+\begin{code}
+
+module non-trivial-posets {𝓤  𝓦  𝓥 : Universe} (A : Poset 𝓤 𝓦) where
```
Comment (tomdjong) [inline source/Posets/Delta-V-CompletePoset.lagda:65]: It's a bit awkward that `𝓥` is a module parameter here, because it does not feature in the definition of nontriviality at all. It only becomes relevant in `wlem-lemma`. Maybe you could make it an explicit argument there?

File: source/Posets/Delta-V-CompletePoset.lagda [hunk 7]
```diff
@@ -0,0 +1,206 @@
...
+ order : (i : is-non-trivial-poset) → (lower i ≤[ A ] upper i) holds
+ order i = pr₁ (pr₂ (pr₂ i))
+
+ nequal : (i : is-non-trivial-poset) → ¬ (lower i ＝ upper i)
+ nequal i = pr₂ (pr₂ (pr₂ i))
+
+ open Joins (rel-syntax A)
+ open δ_𝓥-complete-poset 𝓥 A
+
+ wlem-lemma : (i : is-non-trivial-poset) → (P : Ω 𝓥) →
```
Comment (tomdjong) [inline source/Posets/Delta-V-CompletePoset.lagda:85]: You could try something like:
```
 module _ (𝓥 : Universe)
          (i : is-non-trivial-poset)
        where

  open Joins (rel-syntax A)
  open δ_𝓥-complete-poset 𝓥 A
  private
   x = lower i
   y = upper i

  wlem-lemma : (P : Ω 𝓥) →
   ((x is-lub-of ((𝟙 + P holds) , δ x y P)) holds → ¬ (P holds)) ×
   ((y is-lub-of ((𝟙 + P holds) , δ x y P)) holds → ¬ ¬ (P holds))
  pr₁ (wlem-lemma P) r p = nequal i (≤-is-antisymmetric A (order i) (pr₁ r (inr p)))
  pr₂ (wlem-lemma P) r np = nequal i (≤-is-antisymmetric A (order i) (pr₂ r ((x , h))))
   where
    h : (x is-an-upper-bound-of ((𝟙 + P holds) , δ x y P)) holds
    h (inl ✯) = ≤-is-reflexive A x
    h (inr p) = 𝟘-induction (np p)
```
to make the whole thing a bit easier on the eyes.

File: source/Posets/Delta-V-CompletePoset.lagda [hunk 8]
```diff
@@ -0,0 +1,206 @@
...
+open import Posets.2ElementPoset pt fe
+
+module δ_𝓥-complete-poset {𝓤 𝓦 : Universe} (𝓥 : Universe) (A : Poset 𝓤 𝓦) where
+ δ : (x y : ∣ A ∣ₚ) → (P : Ω 𝓥) → (𝟙{𝓥} + P holds) → ∣ A ∣ₚ 
+ δ x y P (inl _) = x
+ δ x y P (inr _) = y
+
+ open Joins (rel-syntax A)
+
+ is-δ_𝓥-complete : 𝓤 ⊔ 𝓦 ⊔ (𝓥 ⁺) ̇
```
Comment (tomdjong) [inline source/Posets/Delta-V-CompletePoset.lagda:36]: I'm not sure about having `_𝓥` as part of the name. The universe `𝓥` is really an argument and just naming it `is-δ-complete` is easier and probably better.

File: source/Posets/2ElementPoset.lagda [hunk 9]
```diff
@@ -0,0 +1,51 @@
+Ian Ray, 9 August 2023
```
Comment (tomdjong) [inline source/Posets/2ElementPoset.lagda:1]: Maybe rename the file to `TwoElementPoset`.

File: source/Posets/Delta-V-CompletePoset.lagda [hunk 10]
```diff
@@ -0,0 +1,206 @@
...
+
+\begin{code}
+
+module positive-posets {𝓤  𝓦  𝓥 : Universe} (A : Poset 𝓤 𝓦) where
+ open Joins (rel-syntax A)
+ open δ_𝓥-complete-poset 𝓥 A
+ open Universal fe
+ open PosetReasoning A
+
+ _is-strictly-below_ : (x y : ∣ A ∣ₚ) → {i : is-δ_𝓥-complete} → 𝓤 ⊔ 𝓦 ⊔ (𝓥 ⁺) ̇
```
Comment (tomdjong) [inline source/Posets/Delta-V-CompletePoset.lagda:136]: With my version of Agda (2.6.3), I'm getting quite a few unresolved implicit arguments, because of `is-strictly-below`'s `{i : is-δ_𝓥-complete}`. I suggest you make this a module parameter before defining `is-strictly-below` to resolve this. This also relates to your comment at the end.

File: source/Posets/Delta-V-CompletePoset.lagda [hunk 11]
```diff
@@ -0,0 +1,206 @@
...
+     y ≤[ A ] (pr₁ u)) holds
+    h u = y ＝⟨ p ⁻¹ ⟩ₚ pr₂ u (inl ⋆)
+
+\end{code}
+
+We could show that if the converse holds then so does LEM in 𝓥.
+
+\begin{code}
+
+ transitivity-lemma : (x y z : ∣ A ∣ₚ) → is-δ_𝓥-complete →
```
Comment (tomdjong) [inline source/Posets/Delta-V-CompletePoset.lagda:168]: You should split this into two lemmas. In formalizing, it's often convenient to have small units, rather than big lemmas that will later need projections to be useful.

File: source/Posets/Delta-V-CompletePoset.lagda [hunk 12]
```diff
@@ -0,0 +1,206 @@
...
+    a : (w : ∣ A ∣ₚ) → rel-syntax A z w holds → (P : Ω 𝓥) →
+      (w is-lub-of ((𝟙 + (P holds)) , δ x w P)) holds → P holds
+    a w q P l = sup-condition (pr₁ r) w (≤-is-transitive A y z w (pr₂ r) q) P l
+
+ is-positive : {i : is-δ_𝓥-complete} → 𝓤 ⊔ 𝓦 ⊔ (𝓥 ⁺) ̇ 
+ is-positive = Σ x ꞉ ∣ A ∣ₚ , (Σ y ꞉ ∣ A ∣ₚ , x is-strictly-below y)
+
+\end{code}
+
+Maybe we add syntax for the strictly below relation...
```
Comment (tomdjong) [inline source/Posets/Delta-V-CompletePoset.lagda:200]: Yes!

**Review by tomdjong — CHANGES_REQUESTED** [review]
Many thanks @IanRay11!
I made some comments with suggested changes that hopefully you'll find helpful. I would be happy to go over a revised version.

P.S. It would be really nice if you could formalize Lemmas 6.2.18 and 6.2.19, from which the results on resizing follow easily (with the help of some lemmas already in TypeTopology).

File: source/Posets/2ElementPoset.lagda (hunk 9 above)
Comment (IanRay11) [reply source/Posets/2ElementPoset.lagda:1]: When I changed the file name it created a duplicate and now both are in the PR. Can I delete the original 2ElementPoset from the PR here on GitHub or do I need to do something locally.

File: source/Posets/Delta-V-CompletePoset.lagda (hunk 7 above)
Comment (IanRay11) [reply source/Posets/Delta-V-CompletePoset.lagda]: This is really nice! Thanks for the suggestion of making x and y private variables.

File: source/Posets/Delta-V-CompletePoset.lagda (hunk 10 above)
Comment (IanRay11) [reply source/Posets/Delta-V-CompletePoset.lagda]: I noticed the unresolved arguments! Thanks for the fix!

File: source/Posets/2ElementPoset.lagda (hunk 9 above)
Comment (tomdjong) [reply source/Posets/2ElementPoset.lagda:1]: To get renamings to be registered by `git`, you typically do `git mv old new`. Maybe you can delete the old file from the PR by doing `git rm 2ElementPoset.lagda`. Make sure you have some backups before you do anything drastic :slightly_smiling_face: 

We can always delete the old file later in some PR, so don't worry too much about it.

File: source/Posets/Delta-V-CompletePoset.lagda (hunk 12 above)
Comment (IanRay11) [reply source/Posets/Delta-V-CompletePoset.lagda:211]: I've never actually made syntax before. I do seem some examples to follow in the Join file but would be open to suggestons. Also, since I have been using \leq should I use < for strictly below? This departs from the notation used in your thesis.

**Comment by ayberkt** [comment]
Is this ready to merge now @IanRay11 ?

**Comment by IanRay11** [comment]
@ayberkt I still need to add the retraction theorems and delete old files. Maybe I can refocus from my other project and finish this one up.

**Comment by IanRay11** [comment]
@tomdjong I have one more goal that is open. But it is going to be a straight forward translation from propositions to not-not-stable propositions. Ignoring that loose end this file is ready for review.

**Comment by tomdjong** [comment]
@IanRay11 Thanks! I'll review this sometime in the coming week.

**Comment by IanRay11** [comment]
I've almost translated the details for not-not-stable props, but something is going wrong with the delta completeness part. I need to look with fresh eyes.

File: source/Posets/Delta-V-CompletePoset.lagda [hunk 13]
```diff
@@ -0,0 +1,759 @@
...
+   to-subtype-＝ (λ X → being-¬¬-stable-is-prop fe (holds-is-prop X))
+                 (to-subtype-＝ (λ _ → being-prop-is-prop fe) (pe (holds'-is-prop P) (holds'-is-prop Q) o r))
+
+ ⊑-is-transitive : (P Q R : Ω¬¬ 𝓥) → P ⊑ Q → Q ⊑ R → P ⊑ R
+ ⊑-is-transitive P Q R o r p = r (o p)
+
+ Ω¬¬-Poset : Poset (𝓥 ⁺) 𝓥
+ Ω¬¬-Poset = (Ω¬¬ 𝓥 ,
+            (λ P → λ Q → (P ⊑ Q , ⊑-is-prop-valued P Q)) ,
+            (((λ P → ⊑-is-reflexive P)
```
Comment (tomdjong) [inline source/Posets/Delta-V-CompletePoset.lagda:631]: Same comment regarding the lambdas as above.

File: source/Posets/Delta-V-CompletePoset.lagda [hunk 14]
```diff
@@ -0,0 +1,759 @@
...
+ open Local-Smallness (𝓥 ⁺) 𝓥 𝓥 Ω¬¬-Poset (λ P → λ Q → (P ⊑ Q , ⊑-is-prop-valued P Q))
+
+ ⊑-is-locally-small : is-locally-small-order
+ ⊑-is-locally-small P Q = (P ⊑ Q , ≃-refl (P ⊑ Q))
+
+ open δ-complete-poset 𝓥 Ω¬¬-Poset
+
+ Ω¬¬-δ-complete : is-δ-complete
+ Ω¬¬-δ-complete Q R Q-⊑-R P =
+   (((¬¬ (((Ǝ i ꞉ (𝟙 + P holds) , (δ Q R P i) holds') holds)) , negations-are-props fe) , ¬-is-¬¬-stable) , (is-upbnd , has-lub-cond))
```
Comment (tomdjong) [inline source/Posets/Delta-V-CompletePoset.lagda:644]: This line got a little too long.

File: source/Posets/Delta-V-CompletePoset.lagda [hunk 15]
```diff
@@ -0,0 +1,759 @@
...
+     g = double-contrapositive f
+     h : ¬¬ (U holds') → U holds'
+     h = holds'-is-¬¬-stable U
+     E-⊑-U : E ⊑ U
+     E-⊑-U = h ∘ g
+
+ open non-trivial-posets Ω¬¬-Poset
+
+ Ω¬¬-is-non-trivial : is-non-trivial-poset
+ Ω¬¬-is-non-trivial = ((⊥ , 𝟘-is-¬¬-stable) , (⊤ , 𝟙-is-¬¬-stable) , (λ z → 𝟘-elim z) , (λ np → 𝟘-is-not-𝟙 (ap (pr₁ ∘ pr₁) np)))
```
Comment (tomdjong) [inline source/Posets/Delta-V-CompletePoset.lagda:672]: `(λ z → 𝟘-elim z)` is just `𝟘-elim`. Similarly for the next thing.

File: source/Posets/Delta-V-CompletePoset.lagda [hunk 16]
```diff
@@ -0,0 +1,759 @@
...
+
+\end{code}
+
+Now we can prove the main theorems (see Chapter 6 Section 2.4 of Tom de Jong's thesis).
```
Comment (tomdjong) [inline source/Posets/Delta-V-CompletePoset.lagda:676]: You could give specific theorem numbers here instead.

File: source/Posets/Delta-V-CompletePoset.lagda [hunk 17]
```diff
@@ -0,0 +1,759 @@
...
+ module _ where
+
+  open Ω-δ-complete-positive-Poset 𝓥
+  open δ-complete-poset 𝓥 Ω-Poset
+  open Positive-Posets (𝓥 ⁺) 𝓥 𝓥 Ω-Poset
+  open positive-posets Ω-δ-complete
+  open Small-δ-complete-poset (𝓥 ⁺) 𝓥 𝓥 Ω-Poset
+  open small-δ-complete-poset Ω-δ-complete
+
+  resizing-implies-small-positive-poset : Ω-Resizing 𝓥 𝓥 → Σ P ꞉ Poset (𝓥 ⁺) 𝓥 , is-δ-complete × is-positive-poset × poset-is-small
```
Comment (tomdjong) [inline source/Posets/Delta-V-CompletePoset.lagda:756]: Please break the lines for readability.

**Review by tomdjong — CHANGES_REQUESTED** [review]
Many, many thanks for your work @IanRay11!

Here are some comments that should improve overall readability. I'll do another pass when you've had a chance to take these into account.

**Comment by tomdjong** [comment]
When you implement the suggestions above, please mark the relevant part as _Resolved_ to keep track of things.

**Comment by IanRay11** [comment]
Thanks! I'll got on this. In the past I wasn't sure if it was my job to determine if an issue was resolved, but going forward I will do this.

File: source/Posets/Delta-V-CompletePoset.lagda [hunk 18]
```diff
@@ -0,0 +1,759 @@
+Ian Ray, 25 July 2023.
+
+Formalizing the auxilary notion of a delta-V-complete poset which is
+sufficient for the main theorems of Section 6.2 from (link?) Tom de Jong's thesis
```
[the remark this answers is not in the document]
Comment (IanRay11) [reply source/Posets/Delta-V-CompletePoset.lagda:4]: Which link do you prefer? ArXiV or the one from your personal site?

File: source/Posets/Delta-V-CompletePoset.lagda [hunk 19]
```diff
@@ -0,0 +1,759 @@
...
+is-δ-complete-δ : (D : δ-complete-Poset 𝓤 𝓦 𝓥) → δ-complete-poset.is-δ-complete 𝓥 (Poset-δ D)
+is-δ-complete-δ D = pr₂ D
+
+\end{code}
+
+\begin{code}
+
+module non-trivial-posets {𝓤  𝓦 : Universe} (A : Poset 𝓤 𝓦) where
+
+ is-non-trivial-poset : 𝓤 ⊔ 𝓦 ̇
```
[the remark this answers is not in the document]
Comment (IanRay11) [reply source/Posets/Delta-V-CompletePoset.lagda:157]: I am definitely down for making this change but I may have a few questions (mainly for my own understanding). I've seen in your definition of a basis for the way below relation that you use records, but you justify somehow... iirc by showing something is a property and not data. Can you elaborate on when records and sigmas are equivalent? Then I would be happy to use them out of convenience.

File: source/Posets/Delta-V-CompletePoset.lagda [hunk 20]
```diff
@@ -0,0 +1,759 @@
...
+ ⊑-is-antisymmetric : {P Q : Ω 𝓥} → P ⊑ Q → Q ⊑ P → P ＝ Q
+ ⊑-is-antisymmetric {P} {Q} o r = to-subtype-＝ (λ _ → being-prop-is-prop fe) (pe (holds-is-prop P) (holds-is-prop Q) o r)
+
+ ⊑-is-transitive : (P Q R : Ω 𝓥) → P ⊑ Q → Q ⊑ R → P ⊑ R
+ ⊑-is-transitive P Q R o r p = r (o p)
+
+ Ω-Poset : Poset (𝓥 ⁺) 𝓥
+ Ω-Poset = (Ω 𝓥 ,
+            (λ P → λ Q → (P ⊑ Q , ⊑-is-prop-valued P Q)) ,
+            (((λ P → ⊑-is-reflexive P) , λ P → λ Q → λ R → ⊑-is-transitive P Q R) , λ o → λ r → ⊑-is-antisymmetric o r))
```
[the remark this answers is not in the document]
Comment (IanRay11) [reply source/Posets/Delta-V-CompletePoset.lagda:572]: I like the idea of writing it all out to make the definitions of Omega-not-not Poset alittle more clear. But I am not adament about this.

File: source/Posets/Delta-V-CompletePoset.lagda [hunk 21]
```diff
@@ -0,0 +1,759 @@
...
+
+ open Local-Smallness (𝓥 ⁺) 𝓥 𝓥 Ω-Poset (λ P → λ Q → (P ⊑ Q , ⊑-is-prop-valued P Q))
+
+ ⊑-is-locally-small : is-locally-small-order
+ ⊑-is-locally-small P Q = (P ⊑ Q , ≃-refl (P ⊑ Q))
+
+ open δ-complete-poset 𝓥 Ω-Poset
+
+ Ω-δ-complete : is-δ-complete
+ Ω-δ-complete Q R Q-⊑-R P = ((Ǝ i ꞉ (𝟙 + P holds) , (δ Q R P i holds)) , (is-upbnd , has-sup-cond))
```
[the remark this answers is not in the document]
Comment (IanRay11) [reply source/Posets/Delta-V-CompletePoset.lagda:582]: Similar reasoning here imo.

File: source/Posets/Delta-V-CompletePoset.lagda (hunk 14 above)
Comment (IanRay11) [reply source/Posets/Delta-V-CompletePoset.lagda:644]: Hmm it didn't look too bad to me, but where should I line break?

File: source/Posets/Delta-V-CompletePoset.lagda (hunk 18 above)
[the remark this answers is not in the document]
Comment (tomdjong) [reply source/Posets/Delta-V-CompletePoset.lagda]: You can use this (taken from `DomainTheory.index`)
```
Domain Theory in Constructive and Predicative Univalent Foundations
Tom de Jong
School of Computer Science, University of Birmingham
https://etheses.bham.ac.uk/id/eprint/13401/

Updated versions:
https://arxiv.org/abs/2301.12405
https://tdejong.com/writings/phd-thesis.pdf
  ```

File: source/Posets/Delta-V-CompletePoset.lagda (hunk 19 above)
[the remark this answers is not in the document]
Comment (tomdjong) [reply source/Posets/Delta-V-CompletePoset.lagda:139]: There's no need to justify. Records are essentially Sigma-types with convenient projections. It's just that we sometimes wish to use theorems about Sigma-types and we can't apply those to records directly. But they are always equivalent, see e.g. the start of `DomainTheory.BasesAndContinuity.ContinuityDiscussion`.

File: source/Posets/Delta-V-CompletePoset.lagda (hunk 14 above)
Comment (tomdjong) [reply source/Posets/Delta-V-CompletePoset.lagda:629]: Just before `(is-upbnd , has-lub-cond)` is very natural, since it's a new component anyway.
You could even break several times, e.g. introduce the type on one line, show it's a prop on the next, show it's not-not-stable on the line after that, etc.

Comment (tomdjong) [reply source/Posets/Delta-V-CompletePoset.lagda:629]: Try to stick to max. 80 characters in width.

File: source/Posets/Delta-V-CompletePoset.lagda (hunk 19 above)
[the remark this answers is not in the document]
Comment (IanRay11) [reply source/Posets/Delta-V-CompletePoset.lagda:140]: Okay that makes sense. I am open to this. Are there other instances where I should maybe use records here?

[the remark this answers is not in the document]
Comment (tomdjong) [reply source/Posets/Delta-V-CompletePoset.lagda:140]: Don't think so, but I'll keep it in mind for the second review later.

[the remark this answers is not in the document]
Comment (tomdjong) [reply source/Posets/Delta-V-CompletePoset.lagda:140]: @IanRay11 Did you want to use a record here, or would you prefer not to? Either is fine with me, just let me know and I can resolve this conversation.

[the remark this answers is not in the document]
Comment (IanRay11) [reply source/Posets/Delta-V-CompletePoset.lagda:140]: I'm fine with this being a sigma type. But I am now much more open to using records in the future.

**Comment by tomdjong** [comment]
Thanks @IanRay11! 
Before I do another detailed review, could you please do following:

1. Format things so that all lines (including comments) are at most 80 characters wide. You should be able to see how to format things by looking at some files already in TypeTopology, but feel free to ask when unsure.
2. Use `↔` instead of `⇔` to make your file `Delta-V-CompletePoset.lagda` compile again.

**Comment by IanRay11** [comment]
I couldn't find an example of everything I had questions about. Not sure how to split up long sigmas and long functions with long lists of applications.

File: source/Posets/Delta-V-CompletePoset.lagda [hunk 22]
```diff
@@ -0,0 +1,854 @@
...
+  is-ub-of-δ = pr₁ is-sup-of-δ
+
+  has-lub-cond-δ : ((u , _) : upper-bound (δ-fam x y P))
+                 → ((sup-of-δ i x y o P) ≤ u) holds
+  has-lub-cond-δ = pr₂ is-sup-of-δ
+
+  lower-＝-sup-δ : ¬ (P holds) → x ＝ sup-of-δ i x y o P
+  lower-＝-sup-δ not-P = ≤-is-antisymmetric A x-≤-sup sup-≤-x
+   where
+    x-≤-sup : (x ≤ sup-of-δ i x y o P) holds
```
Comment (tomdjong) [inline source/Posets/Delta-V-CompletePoset.lagda:87]: I discussed this with Martin and it is preferred to give things like this "proper names", e.g. `x-below-sup`, or to just simply label them `I`, `II`, `III`, etc. Other examples in your code include `x-≤-y` and `x-≠-y`, and so on.

File: source/Posets/Delta-V-CompletePoset.lagda [hunk 23]
```diff
@@ -0,0 +1,854 @@
...
+  sup-δ-≤-upper = has-lub-cond-δ (y , y-is-ub)
+   where
+    y-is-ub : (y is-an-upper-bound-of (δ-fam x y P)) holds
+    y-is-ub (inl ⋆) = o
+    y-is-ub (inr _) = ≤-is-reflexive A y
+
+\end{code}
+
+Future work: I would be nice to show that classically every poset is δ_𝓥
+complete and to provide the critical examples of δ_𝓥 complete posets (𝓥-sup
```
Comment (tomdjong) [inline source/Posets/Delta-V-CompletePoset.lagda:120]: Could you label this with a `TODO` please? This makes it easier to search (`grep`) all code for future work.

File: source/Posets/Delta-V-CompletePoset.lagda [hunk 24]
```diff
@@ -0,0 +1,854 @@
...
+\end{code}
+
+We now show that the two element poset is δ complete only if WEM holds.
+
+\begin{code}
+
+2-is-non-trivial : non-trivial-posets.is-non-trivial-poset 2-Poset
+2-is-non-trivial = (₀ , ₁ , ⋆ , zero-is-not-one)
+
+2-is-δ-complete-WEM : {𝓥 : Universe}
```
Comment (tomdjong) [inline source/Posets/Delta-V-CompletePoset.lagda:192]: Please rename to `2-is-δ-complete-gives-WEM`.

File: source/Posets/Delta-V-CompletePoset.lagda [hunk 25]
```diff
@@ -0,0 +1,854 @@
...
+                 → P holds)
+  sup-condition c = pr₂ c
+
+  strictly-below-implies-non-trivial : (x y : ∣ A ∣ₚ)
+                                     → is-δ-complete
+                                     → (x < y)
+                                     → (x ≤ y) holds × (x ≠ y)
+  pr₁ (strictly-below-implies-non-trivial x y i c) = order-< c
+  pr₂ (strictly-below-implies-non-trivial x y i c) p =
+   𝟘-induction (sup-condition c y (≤-is-reflexive A y)
```
Comment (tomdjong) [inline source/Posets/Delta-V-CompletePoset.lagda:258]: I think you can simplify this slightly by using `𝟘-elim` instead.

File: source/Posets/Delta-V-CompletePoset.lagda [hunk 26]
```diff
@@ -0,0 +1,854 @@
...
+    where
+     y-is-ub : (y is-an-upper-bound-of (δ-fam x y ⊥)) holds
+     y-is-ub (inl ⋆) = order-< c
+
+     y-has-lub-cond : (u : upper-bound (δ-fam x y ⊥)) → (y ≤ (pr₁ u)) holds
+     y-has-lub-cond u = y ＝⟨ p ⁻¹ ⟩ₚ pr₂ u (inl ⋆)
+
+\end{code}
+
+We could show that if the converse holds then so does EM in 𝓥.
```
Comment (tomdjong) [inline source/Posets/Delta-V-CompletePoset.lagda:270]: Probably you should spell out what "the converse" refers to exactly here.

File: source/Posets/Delta-V-CompletePoset.lagda [hunk 27]
```diff
@@ -0,0 +1,854 @@
...
+        u-is-ubₓ : (u is-an-upper-bound-of (δ-fam x w P)) holds
+        u-is-ubₓ (inl ⋆) = ≤-is-transitive A x y u (x-≤-y) (u-is-ub (inl ⋆))
+        u-is-ubₓ (inr p) = u-is-ub (inr p)
+
+  <-≤-to-< : (i : is-δ-complete)
+           → (x y z : ∣ A ∣ₚ)
+           → x < y × (y ≤ z) holds
+           → x < z
+  <-≤-to-< i x y z (x-<-y , y-≤-z) =
+   (≤-is-transitive A x y z (order-< x-<-y) y-≤-z , sup-cond-P)
```
Comment (tomdjong) [inline source/Posets/Delta-V-CompletePoset.lagda:306]: Here are some other examples of the discouraged naming scheme: `x-<-y`, `y-≤-z`.

File: source/Posets/Delta-V-CompletePoset.lagda [hunk 28]
```diff
@@ -0,0 +1,854 @@
...
+                → P holds
+     sup-cond-P w z-≤-w P w-is-lub =
+       sup-condition x-<-y w (≤-is-transitive A y z w y-≤-z z-≤-w) P w-is-lub
+
+  is-positive-poset : 𝓤 ⊔ 𝓦 ⊔ (𝓥 ⁺) ̇ 
+  is-positive-poset = Σ x ꞉ ∣ A ∣ₚ , (Σ y ꞉ ∣ A ∣ₚ , x < y)
+
+\end{code}
+
+Next we will formalize the first retract lemma. The result will allows use to exhibit the type of not-not stable propositions
```
Comment (tomdjong) [inline source/Posets/Delta-V-CompletePoset.lagda:321]: Can you wrap these at 80 chars please?

File: source/Posets/Delta-V-CompletePoset.lagda [hunk 29]
```diff
@@ -0,0 +1,854 @@
...
+                    (to-subtype-＝ (λ Y → being-prop-is-prop fe)
+                                   (pe (negations-are-props fe)
+                                       (holds-is-prop P)
+                                       (f (P , P-¬¬-stable))
+                                       (g (P , P-¬¬-stable))))
+
+  Δ-section-to-non-trivial : is-section (Δ ∘ Ω¬¬-to-Ω) → x ≠ y
+  Δ-section-to-non-trivial (r , H) x-＝-y =
+    𝟘-is-not-𝟙 (ap (pr₁ ∘ pr₁) (r-x-＝-𝟘 ⁻¹ ∙ ap r x-＝-y ∙ r-y-＝-𝟙))
+   where
```
Comment (tomdjong) [inline source/Posets/Delta-V-CompletePoset.lagda:419]: It would be nice to use the equational chain reasoning syntax here, see e.g. https://www.cs.bham.ac.uk/~mhe/TypeTopology/UF.HiggsInvolutionTheorem.html#lc-monoid-structure-on-Ω-gives-EM

File: source/Posets/Delta-V-CompletePoset.lagda [hunk 30]
```diff
@@ -0,0 +1,854 @@
...
+
+  open positive-posets i
+  open local-smallness l
+  open def-Δ i
+
+  private
+   t : (z : ∣ A ∣ₚ) → (y ≤ z) holds → (x ≤ z) holds
+   t z y-≤-z = ≤-is-transitive A x y z x-≤-y y-≤-z
+
+  positive-to-Δ-section : x < y → (z : ∣ A ∣ₚ)
```
Comment (tomdjong) [inline source/Posets/Delta-V-CompletePoset.lagda:471]: Throughout this lemma: please see my earlier comment about the naming scheme.

File: source/Posets/Delta-V-CompletePoset.lagda [hunk 31]
```diff
@@ -0,0 +1,854 @@
...
+      path₂ = ap (r z y-≤-z) ((upper-＝-sup-δ i x z (t z y-≤-z) ⊤ ⊤-holds) ⁻¹)
+
+      path₃ : (r z y-≤-z) z ＝ (r z y-≤-z) (Δ (t z y-≤-z) P)
+      path₃ = ap (r z y-≤-z) z-＝-Δ
+
+      path₄ : (r z y-≤-z) (Δ (t z y-≤-z) P) ＝ P
+      path₄ = H z y-≤-z P
+
+      path₅ : ⊤ ＝ P
+      path₅ = path₁ ∙ path₂ ∙ path₃ ∙ path₄
```
Comment (tomdjong) [inline source/Posets/Delta-V-CompletePoset.lagda:562]: Equational reasoning syntax will clean this up too.

File: source/Posets/Delta-V-CompletePoset.lagda [hunk 32]
```diff
@@ -0,0 +1,854 @@
...
+
+ ⊑-is-transitive : (P Q R : Ω 𝓥) → P ⊑ Q → Q ⊑ R → P ⊑ R
+ ⊑-is-transitive P Q R o r p = r (o p)
+
+ Ω-Poset : Poset (𝓥 ⁺) 𝓥
+ Ω-Poset = (Ω 𝓥 ,
+            (λ P → λ Q → (P ⊑ Q , ⊑-is-prop-valued P Q)) ,
+            (⊑-is-reflexive , ⊑-is-transitive) , ⊑-is-antisymmetric)
+
+ open Local-Smallness (𝓥 ⁺)
```
Comment (tomdjong) [inline source/Posets/Delta-V-CompletePoset.lagda:620]: I would reformat this as:
```
open Local-Smallness (𝓥 ⁺) 𝓥 𝓥
      Ω-Poset
      (λ P → λ Q → (P ⊑ Q , ⊑-is-prop-valued P Q))
```

File: source/Posets/Delta-V-CompletePoset.lagda [hunk 33]
```diff
@@ -0,0 +1,854 @@
...
+                      𝓥
+                      Ω-Poset
+                      (λ P → λ Q → (P ⊑ Q , ⊑-is-prop-valued P Q))
+
+ ⊑-is-locally-small : is-locally-small-order
+ ⊑-is-locally-small P Q = (P ⊑ Q , ≃-refl (P ⊑ Q))
+
+ open δ-complete-poset 𝓥 Ω-Poset
+
+ Ω-δ-complete : is-δ-complete
```
Comment (tomdjong) [inline source/Posets/Delta-V-CompletePoset.lagda:631]: Please rename to `Ω-is-δ-complete`. Similarly, `Ω-is-positive` below.

File: source/Posets/Delta-V-CompletePoset.lagda [hunk 34]
```diff
@@ -0,0 +1,854 @@
...
+
+ ⊑-is-transitive : (P Q R : Ω¬¬ 𝓥) → P ⊑ Q → Q ⊑ R → P ⊑ R
+ ⊑-is-transitive P Q R o r p = r (o p)
+
+ Ω¬¬-Poset : Poset (𝓥 ⁺) 𝓥
+ Ω¬¬-Poset = (Ω¬¬ 𝓥 ,
+              (λ P → λ Q → (P ⊑ Q , ⊑-is-prop-valued P Q)) ,
+              (⊑-is-reflexive , ⊑-is-transitive) , ⊑-is-antisymmetric)
+
+ open Local-Smallness (𝓥 ⁺)
```
Comment (tomdjong) [inline source/Posets/Delta-V-CompletePoset.lagda:692]: As commented above.

File: source/Posets/Delta-V-CompletePoset.lagda [hunk 35]
```diff
@@ -0,0 +1,854 @@
...
+                      𝓥
+                      Ω¬¬-Poset
+                      (λ P → λ Q → (P ⊑ Q , ⊑-is-prop-valued P Q))
+
+ ⊑-is-locally-small : is-locally-small-order
+ ⊑-is-locally-small P Q = (P ⊑ Q , ≃-refl (P ⊑ Q))
+
+ open δ-complete-poset 𝓥 Ω¬¬-Poset
+
+ Ω¬¬-δ-complete : is-δ-complete
```
Comment (tomdjong) [inline source/Posets/Delta-V-CompletePoset.lagda:703]: `Ω¬¬-is-δ-complete`

File: source/Posets/Delta-V-CompletePoset.lagda [hunk 36]
```diff
@@ -0,0 +1,854 @@
...
+ open Local-Smallness 𝓤 𝓦 𝓥 A _≤_
+ open Small-δ-complete-poset 𝓤 𝓦 𝓥 A
+ open Retract-Lemmas 𝓤 𝓦 𝓥 A
+
+ small-non-trivial-poset-implies-¬¬resizing :
+   (δ-complete : is-δ-complete)
+  → is-non-trivial-poset
+  → small-δ-complete-poset.poset-is-small δ-complete
+  → Ω¬¬-Resizing 𝓥 𝓥
+ small-non-trivial-poset-implies-¬¬resizing δ-complete (x , y , x-≤-y , x-≠-y) (locally-small , carrier-small) =
```
Comment (tomdjong) [inline source/Posets/Delta-V-CompletePoset.lagda:762]: You can do
```
small-non-trivial-poset-implies-¬¬resizing δ-complete 
 (x , y , x-≤-y , x-≠-y) (locally-small , carrier-small) =
```
to fix the width.
Also, please rename `x-≤-y` and `x-≠-y` as mentioned before.

**Review by tomdjong — CHANGES_REQUESTED** [review]
Nice work! Just a few more suggestions for improvement.

File: source/OrderedTypes/Delta-V-CompletePoset.lagda [hunk 37]
```diff
@@ -0,0 +1,875 @@
...
+
+     y-has-lub-cond : ((u , _) : upper-bound (δ-fam x y ⊥)) → (y ≤ u) holds
+     y-has-lub-cond (u , is-upbnd) = y ＝⟨ p ⁻¹ ⟩ₚ is-upbnd (inl ⋆)
+
+\end{code}
+
+TODO: We could show that if the converse holds then so does EM in 𝓥.
+This is because in particular, for x,y : Ω 𝓥
+
+  if x ≤ y and x ≠ y implies x < y then EM holds in 𝓥
```
Comment (tomdjong) [inline source/OrderedTypes/Delta-V-CompletePoset.lagda:277]: It would be helpful to say here that we get DNE (not-not P -> P), which is equivalent to EM, by taking x = \bot and y = P.

File: source/OrderedTypes/Delta-V-CompletePoset.lagda [hunk 38]
```diff
@@ -0,0 +1,875 @@
...
+                                                          y-below-z
+                                                          z-below-w)
+                                         P w-is-lub
+
+  is-positive-poset : 𝓤 ⊔ 𝓦 ⊔ (𝓥 ⁺) ̇ 
+  is-positive-poset = Σ x ꞉ ∣ A ∣ₚ , (Σ y ꞉ ∣ A ∣ₚ , x < y)
+
+\end{code}
+
+Next we will formalize the first retract lemma. The result will allows use to
```
Comment (tomdjong) [inline source/OrderedTypes/Delta-V-CompletePoset.lagda:340]: "use" -> "us"

**Review by tomdjong — COMMENTED** [review]
I need to briefly discuss the use of copatterns with Martin, but other than that, and the comments I just made, this should be ready for merging :slightly_smiling_face:

**Comment by tomdjong** [comment]
Although I should also review the equational reasoning you will add soon.

File: source/OrderedTypes/Delta-V-CompletePoset.lagda [hunk 39]
```diff
@@ -0,0 +1,875 @@
...
+                                     → (z is-lub-of (δ-fam x z P)) holds
+                                     → P holds)
+  sup-condition-from-strictly-below x-strictly-below-y =
+     pr₂ x-strictly-below-y
+
+  strictly-below-implies-non-trivial : (x y : ∣ A ∣ₚ)
+                                     → is-δ-complete
+                                     → (x < y)
+                                     → (x ≤ y) holds × (x ≠ y)
+  pr₁ (strictly-below-implies-non-trivial x y i x-strictly-below-y) =
```
Comment (tomdjong) [inline source/OrderedTypes/Delta-V-CompletePoset.lagda:259]: Could you, instead of using copatterns, here and in other places, do the following instead please?

```
strictly-below-implies-non-trivial x y i x-strictly-below-y = I , II
 where
  I : ?
  I = ?
  II : ?
  II = ?
```
So that `I` and `II` make up the pair in the conclusion of the statement. Thanks!

File: source/OrderedTypes/Delta-V-CompletePoset.lagda [hunk 40]
```diff
@@ -337,7 +346,7 @@ This is because in particular, for x,y : Ω 𝓥
 
 \end{code}
 
-Next we will formalize the first retract lemma. The result will allows use to
+Next we will formalize the first retract lemma. The result will allows us to
```
Comment (tomdjong) [inline source/OrderedTypes/Delta-V-CompletePoset.lagda:349]: _allow_ us

File: source/OrderedTypes/Delta-V-CompletePoset.lagda [hunk 41]
```diff
@@ -0,0 +1,871 @@
...
+  private
+   x = lower i
+   y = upper i
+   x-below-y = ordering i
+   x-not-equal-y = not-equal i 
+
+  WEM-lemma : (P : Ω 𝓥)
+            → ((x is-lub-of (δ-fam x y P)) holds → ¬ (P holds))
+            × ((y is-lub-of (δ-fam x y P)) holds → ¬ ¬ (P holds)) 
+  pr₁ (WEM-lemma P) (x-is-ub , _) in-P =
```
Comment (tomdjong) [inline source/OrderedTypes/Delta-V-CompletePoset.lagda:175]: Can you not use copatterns please? (As before)

**Review by tomdjong — COMMENTED** [review]
Just two more minor comments. The equational reasoning really tidied up the proofs! :)

**Comment by tomdjong** [comment]
@IanRay11 Are you OK with renaming the file to `DeltaCompletePoset`? I can do this after merging if you like.

**Comment by IanRay11** [comment]
@tomdjong yes that name is better suited.

**Comment by tomdjong** [comment]
Sorry, there are two more requests I forgot:

1. Please add your files to `OrderedTypes/index.lagda` with your name.
2. Please update the dates at the top of your files.

Could you then also please change the file name (remember this in (1))? Thanks!

**Comment by IanRay11** [comment]
Sure thing!

**Comment by martinescardo** [comment]
The html rendering is now updated. Thanks a lot for your contribution, @IanRay11 , and thanks for the review, @tomdjong .
